US03980788
A solution of 9.92 g. (41.3 mmoles) of 9-acetoxyxanthene and 5.9 g. (46.1 mmoles) of 3-dimethylaminopiperidine in 200 ml. of benzene was refluxed for 18 hours. The mixture was then washed with aqueous sodium bicarbonate solution, dried, and evaporated. Chromatography on alumina (chloroform eluant) afforded 1-(9-xanthenyl)-3-dimethylaminopiperidine, as a colorless oil.

reactant | 9-acetoxyxanthene | 41.3 mmoles | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 3-dimethylaminopiperidine | 46.1 mmoles | CN(C1CNCCC1)C | C7H16N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(9-xanthenyl)-3-dimethylaminopiperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)N(C)C | C20H24N2O
